US03963683
The N,N'-diphenylacetamidine which is prepared according to the above paragraph is then placed in a flask along with an acid scavenger comprising triethylamine using dimethylformamide as a solvent. The mixture is cooled to a temperature of 0° C. and maintained thereat while an equimolar amount of cyclohexanesulfenyl chloride is slowly added thereto dropwise. The temperature of the reaction will range from about 0° to about 10° C. with continuous stirring. Following the completion of the addition of the cyclohexanesulfenyl chloride, the reaction mixture is stirred for an additional period of 1 hour while allowing the temperature of the solution to reach room temperature. Following this, water is added and the organic layer which separates out is thereafter washed several times with water, dried over magnesium sulfate and subjected to vacuum to remove the dimethylformamide solvent. The resulting material will slowly crystallize and the crystals comprising N,N'-diphenyl-N-cyclohexylthioacetamidine will be recovered by filtration.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | cyclohexanesulfenyl chloride | C1(CCCCC1)SCl | C6H11ClS
reactant | water | O | H2O
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | N,N'-diphenylacetamidine | C1(=CC=CC=C1)NC(C)=NC1=CC=CC=C1 | C14H14N2
